US05405851
A mixture of N-(9-bromo-1,2-dihydro-10-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.8 g, 1.9 mmoles) and iron powder (0.44 g, 7.8 mmoles) in ethanol:glacial acetic acid/1:1 (25 ml) was stirred and heated to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was poured into chloroform:water/2:1 (150 ml) and neutralized by addition of solid sodium bicarbonate. The chloroform layer was separated, and the aqueous phase was washed twice with chloroform (50 ml each). Combined chloroform layers were dried over sodium sulfate, filtered and evaporated under reduced pressure. The crude product was purified on a silica gel column eluting with chloroform to give N-(10-amino-9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide as a bright yellow solid. (0.66 g, 89%) 1H NMR(DMSO-d6, 200 MHz) δ: 1.27(s, 9H, t-butyl); 6.51(s, 2H, NH2); 7.22(d, J=8.4 Hz, 1H, Ar); 7.51(br d, J= 9 Hz, 1H, Ar); 7.72(d, J=8.4 Hz, 1H, Ar); 8.12(d, J=9.0 Hz, 1H, Ar); 11.40(br s, 1H, NH); 12.45(br s, 1H, NH).

reactant | N-(9-bromo-1,2-dihydro-10-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 1.9 mmoles, 0.8 g | BrC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1[N+](=O)[O-] | C17H15BrN4O4
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 7.8 mmoles, 0.44 g | [Fe] | Fe
solvent | water | 150 ml | O | H2O
product | N-(10-amino-9-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | NC1=C(C=CC2=C1C=1C(NC(=NC1C=C2)NC(C(C)(C)C)=O)=O)Br | C17H17BrN4O2
